US09102662B2
Preparation of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-2-[(cis-4-hydroxycyclohexyl)amino]-4-(4-methylpiperazin-1-yl)benzamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(4-methyl-piperazin-1-yl)-2-[(cis-4-hydroxycyclohexyl)amino]-phenyl] cpd. 103
4-(4-methylpiperazin-1-yl)-2-[{cis-4-[(phenylcarbonyl)oxy]cyclohexyl}(trifluoroacetyl)amino]benzoic acid hydrochloride (1.03 gr, 1.94 mmol) and oxalyl chloride (3.88 mmol) were stirred in DCM dry (20 mL) and a few drops of dry DMF at 0° C., temperature was allowed to reach room temperature in 2 hours. Volatiles were evaporated and the residue dissolved in dry pyridine (25 mL) at 0° C. A solution of 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine (387 mg, 1.49 mmol) in dry pyridine (6 mL) was added to the cooled reaction mixture. Temperature was allowed to reach room temperature overnight. Reaction was quenched with NaHCO3 sat. sol and extracted with ethyl acetate. Collected organic phases were dried over Na2SO4, filtered and evaporated to dryness. Residue was purified by column chromatography over silica gel (DCM/AcOEt/EtOH=100/10/15). The so obtained derivative, was dissolved in MeOH (200 mL) and water (20 mL) and treated at 60° C. with LiOH hydrate (160 mg, 3.8 mmol) for 4 hours. MeOH was evaporated and the resulting aqueous phase was extracted with EtOAc. Collected organic phases were dried over Na2SO4, filtered and evaporated to dryness. Residue was purified by column chromatography over silica gel (DCM/EtOH/NH3 5N in MeOH=100/10/2) affording 233 mg of title compound.

reactant | 4-(4-methylpiperazin-1-yl)-2-[{cis-4-[(phenylcarbonyl)oxy]cyclohexyl}(trifluoroacetyl)amino]benzoic acid hydrochloride | 1.94 mmol, 1.03 gr | Cl.CN1CCN(CC1)C1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)[C@@H]1CC[C@@H](CC1)OC(=O)C1=CC=CC=C1
reactant | oxalyl chloride | 3.88 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine | 1.49 mmol, 387 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)N)C=C(C1)F | C14H11F2N3
reactant | LiOH hydrate | 3.8 mmol, 160 mg | O[Li].O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 200 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-2-[(cis-4-hydroxycyclohexyl)amino]-4-(4-methylpiperazin-1-yl)benzamide | 233 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)N[C@@H]2CC[C@@H](CC2)O)=O)C=C(C1)F | C32H36F2N6O2
